US04563534
In 200 ml of water is suspended 23 g of 2-(2-formylaminothiazol-4-yl)thioglyoxylic S-acid methyl ester, and 125 ml of a 2 N aqueous sodium hydroxide solution was added thereto dropwise with water-cooling over a period of 30 minutes, after which the resulting mixture was stirred at room temperature for 1 hour. After completion of the reaction, the thus obtained reaction mixture was adjusted to pH 2.5 with 6 N hydrochloric acid. The deposited crystals were collected by filtration, washed successively with water and acetone, and then dried to obtain 16.2 g (81.6% yield) of 2-(2-formylaminothiazol-4-yl)glyoxylic acid having a melting point of above 210° C.

reactant | 2-(2-formylaminothiazol-4-yl)thioglyoxylic S-acid methyl ester | 23 g | CSC(C(=O)C=1N=C(SC1)NC=O)=O | C7H6N2O3S2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 2-(2-formylaminothiazol-4-yl)glyoxylic acid | 16.2 g, 81.6% yield | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
